US08133909B2
1-Methyl-6-[2-(5-trifluoromethyl-pyridin-2-yl)-ethylamino]-3,4-dihydro-1H-quinolin-2-one
In analogy to the procedure described for the synthesis example 71 (step 1), the title compound 1-methyl-6-[2-(5-trifluoromethyl-pyridin-2-yl)-ethylamino]-3,4-dihydro-1H-quinolin-2-one (MS m/e: 350.3 [M+H]+) was prepared from 6-bromo-1-methyl-3,4-dihydro-1H-quinolin-2-one instead of 6-bromo-2,3-dihydro-benzofuran and 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine instead of 2-(6-trifluoromethyl-pyridin-3-yl)-ethylamine.

reactant | 6-bromo-1-methyl-3,4-dihydro-1H-quinolin-2-one | BrC=1C=C2CCC(N(C2=CC1)C)=O | C10H10BrNO
reactant | 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine | FC(C=1C=CC(=NC1)CCN)(F)F | C8H9F3N2
product | 1-methyl-6-[2-(5-trifluoromethyl-pyridin-2-yl)-ethylamino]-3,4-dihydro-1H-quinolin-2-one | CN1C(CCC2=CC(=CC=C12)NCCC1=NC=C(C=C1)C(F)(F)F)=O | C18H18F3N3O
